US05994629
6-Chloro-8-benzylthiopurine
6-Hydroxy-8-benzylthiopurine (7.33 g) is added to a mixture of phosphorous oxychloride (70 ml) and N,N-diethylaniline (7.5 ml), and the mixture refluxed for 2 hours to give a dark-red product. The mixture is concentrated under vacuum and the resulting syrup poured slowly with stirring onto ice (400 g). The mixture is allowed to stand for 15 min., then made strongly alkaline with cold concentrated KOH. The mixture is triturated thoroughly to dissolve most of the syrup and acidified to pH 1 by the slow addition of cold concentrated HCl, with excess ice still present.

reactant | 6-Hydroxy-8-benzylthiopurine | 7.33 g | OC1=C2NC(=NC2=NC=N1)SCC1=CC=CC=C1 | C12H10N4OS
reactant | N,N-diethylaniline | 7.5 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorous oxychloride | 70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-8-benzylthiopurine | ClC1=C2NC(=NC2=NC=N1)SCC1=CC=CC=C1 | C12H9ClN4S
